2139-03-04 07:09:00 Physician Resident Progress Note
Chief Complaint: s/p fall, ?seizure
   24 Hour Events:
   No overnight events.
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2139-3-3**] 11:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-4**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 115 (110 - 148) bpm
   BP: 114/64(75) {88/46(56) - 122/89(96)} mmHg
   RR: 15 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  2,000 mL
                                                                    638 mL
   PO:
             TF:
   IVF:
                                                                  2,000 mL
                                                                    638 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    500 mL
   Urine:
                                                                    900 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,100 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General: Alert, oriented, appropriate, no distress.
   HEENT: Sclera anicteric, PERRL, MM slightly dry, oropharynx clear
   Neck: no JVD, no LAD
   Lungs: Diminished throughout with prolonged expiratory phase, no
   wheezing or crackles.
   CV: tachy, regular, no murmurs, rubs, gallops appreciated.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, no clear ascites.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: alert, oriented x 3, CN II-XII intact, strength 5/5 in UEs and
   LEs.
   Labs / Radiology
   45 K/uL
   10.5 g/dL
   73 mg/dL
   0.8 mg/dL
   24 mEq/L
   2.8 mEq/L
   11 mg/dL
   105 mEq/L
   142 mEq/L
   30.3 %
   5.1 K/uL
        [image002.jpg]
                             [**2139-3-3**]  08:20 PM
                             [**2139-3-4**]  04:23 AM
   WBC
   5.7
   5.1
   Hct
   31.8
   30.3
   Plt
   52
   45
   Cr
   0.9
   0.8
   TropT
   0.07
   0.07
   Glucose
   85
   73
   Other labs: PT / PTT / INR:12.7/24.8/1.1, CK / CKMB /
   Troponin-T:749/7/0.07, ALT / AST:13/52, Alk Phos / T Bili:76/0.7,
   LDH:204 IU/L, Ca++:7.9 mg/dL, Mg++:1.5 mg/dL, PO4:1.9 mg/dL
   Imaging: .
   Microbiology: .
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 TACHYCARDIA, OTHER
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
   and hypophosphatemia
 THROMBOCYTOPENIA, ACUTE
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   liver lesions
 ALCOHOL ABUSE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   63M with history of COPD/emphysema on theophylline, asbestos exposure,
   EtOH abuse, presenting s/p apparent seizure with ?hematemesis vs.
   hemoptysis.
   # Hematemesis vs. hemoptysis.  Hematemesis likely secondary to GI
   bleed.  Hct drop likely dilutional and has remained stable.  This is
   concerning for mass/malignancy, given esophageal thickening, vs
   esophagitis vs gastritis vs mallorey [**Doctor Last Name **] tear (in the setting of ETOH
   use) vs PUD.  No evidence of portal hypertension to suggest varices.
   - F/u on GI recs, will likely get endoscopy
   - Maintain active T/S.
   - Cont PPI [**Hospital1 7**].
   - Monitor hemodynamics
   - has 2 PIVs
   # Seizure.  Likely EtOH withdrawal vs theophylline toxicity.  No
   underlying seizure disorder.  No abnormalities on OSH head CT to
   explain.  No evidence of CNS infection.
   - Hold theophylline.
   - CIWA for now.
   # Tachycardia.  Ddx withdrawal, theophylline toxicity, hypovolemia
   (though now resuscitated with good UOP), bleeding (though hct stable).
   - Hold theophylline.
   - Cont to monitor
   # Electrolyte abnormalities: Hypokalemia, hypophosphatemia.  Likely
   poor nutrition in setting of EtOH abuse.  Both can also be exacerbated
   by theophylline.
   - Hold theophylline.
   - Replete aggressively IV for now.
   # Theophylline toxicity.  Elevated level to 25, unclear trigger (no
   known new meds to interact with).  Patient with seizure, tachycardia,
   hypokalemia and other metabolic abnls.
   - Hold theophylline.
   - Cont to monitor
   - will also check TSH
   # Emphysema.  Extensive disease on imaging.
   - PCP [**Name Initial (PRE) **].
   - Goal sats 90-92%.
   - Hold theophylline, nebs for now, consider tiotrop or [**Doctor Last Name **].
   # EtOH abuse.
   - SW consult.
   - Monitor on CIWA as above with oral valium.
   # THrombocytopenia.  Can be secondary to BM suppression from EtOH vs
   consumption from bleeding.  No evidence of splenomegaly on imaging.
   - continue to trend.
   # Thickened esophagus.  Concern for ?neoplastic pathology with liver
   lesions and evidence of bleeding.
   - GI to scope see above
   # Liver lesions.  Could be mets per radiology.
   - EGD as above
   - Will need further w/u, likely biopsy
   # Elevated CK.  ?related to seizure or found down.  Electrolyte abnls
   can also cause elevations/rhabdo.
   - Continue to trend
   ICU Care
   Nutrition: NPO for now
   Glycemic Control: monitor
   Lines:
   18 Gauge - [**2139-3-3**] 08:00 PM
   20 Gauge - [**2139-3-3**] 08:00 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer: PPI IV
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: likely stable for floor if hct stable
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 63M etoh, emphysema, active smoker, asbestos
   exposure transferred from OSH for management of hematemsis (vs
   hemoptysis), etoh withdrawal and sz activity after unsuccessful attempt
   at NG lavage.   Notes nausea/wretching with coffee grounds and BRB.
   Persistently tachycardic but not tremulous and normotensive.  CTA torso
   neg pe, showed prob met dis in liver and
thickening
 of his distal
   esophagus s/o malignancy.  Hct fell with IVF given for tachycardia.
   [**Last Name (un) **] level elevated at 25.
   Tm 99.8 BP HR 114/64  110 RR 15  100% NC
   alert, NAD, scant rales, distant BS with prolonged exp, RR, tachy, soft
   NT + BS, no edema
   Labs notable for WBC 5.1K, HCT 30.3, plt 45, K 2.8, cr 0.8
   CT torso reviewed
   GIB, likely upper (? gastritis/esophagitis,esoph mass). No evidence of
   active bleeding. CT findings concerning for advanced underlying
   malignancy with hepatic mets. Agree with plan to manage GIB with serial
   hcts, NPO, PPI, active type and cross, large bore PIVs.  GI following
   with plan to scope for underlying process (ca) as well as source of
   bleed. Tachycardia likely mutlifactorial, some improvement with fluids
   and now appears euvolemic with good UOP, concern that [**Last Name (un) **] toxicity
   major contributor, without obvious signs for signs of withdrawal,
   continuing valium per ciwa. Has ro by ces. Sz likely either from [**Last Name (un) **]
   or etoh wd.  Head CT at OSH neg. Thrombocytopenia likely from chronic
   etoh.  Resp status appears at baseline with impressive emphysema on
   imaging.  Hold [**Last Name (un) **] and cont atrovent nebs. PPI, PIV, boots, NPO
   pending GI procedure. Replete lytes.  Remainder of plan as outlined in
   resident note. Stable for floor transfer pending stable hct
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2139-3-4**] 08:33 PM ------

2139-03-05 07:28:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: syncope ?seizure
   Reason for MICU admission: ?GIB vs. hemoptysis, persistent tachycardia
   24 Hour Events:
 EKG - At [**2139-3-4**] 02:51 PM
 URINE CULTURE - At [**2139-3-4**] 09:14 PM
   [**3-4**]
   - EGD on [**3-5**], NPO pm
   - hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-3-4**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-3-5**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 99 (98 - 137) bpm
   BP: 97/55(64) {84/42(52) - 139/77(153)} mmHg
   RR: 12 (11 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  3,684 mL
                                                                    396 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  3,324 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                  3,075 mL
                                                                    775 mL
   Urine:
                                                                  3,075 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    609 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   46 K/uL
   10.1 g/dL
   100 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.3 mEq/L
   6 mg/dL
   107 mEq/L
   142 mEq/L
   29.0 %
   3.5 K/uL
        [image002.jpg]
                             [**2139-3-3**]  08:20 PM
                             [**2139-3-4**]  04:23 AM
                             [**2139-3-4**]  12:20 PM
                             [**2139-3-4**]  05:44 PM
                             [**2139-3-5**]  04:06 AM
   WBC
   5.7
   5.1
   5.2
   4.1
   3.5
   Hct
   31.8
   30.3
   34.5
   29.0
   29.0
   Plt
   52
   45
   47
   44
   46
   Cr
   0.9
   0.8
   0.8
   0.7
   TropT
   0.07
   0.07
   Glucose
   85
   73
   84
   100
   Other labs: PT / PTT / INR:12.8/27.0/1.1, CK / CKMB /
   Troponin-T:749/7/0.07, ALT / AST:16/84, Alk Phos / T Bili:100/0.5,
   LDH:235 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR AP [**2139-3-4**]:
   The heart size is normal. Mediastinal position, contour and width are
   unremarkable. Bilateral perihilar opacities have developed in the
   interim and given their rapid development and continuation towards the
   lung bases are consistent with interval development of pulmonary edema.
   Calcified pleural plaques consistent with known asbestos exposure are
   unchanged. Severe emphysema affecting mostly the upper lobes can be
   better appreciated on the
   chest CT than on chest radiograph.
   Microbiology: Urine cx pending [**2139-3-4**]
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 TACHYCARDIA, OTHER
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
   and hypophosphatemia
 THROMBOCYTOPENIA, ACUTE
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   liver lesions
 ALCOHOL ABUSE
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   63M with history of COPD/emphysema on theophylline, asbestos exposure,
   EtOH abuse, presenting s/p apparent seizure with ?hematemesis vs.
   hemoptysis.
   # Hematemesis vs. hemoptysis.  Hematemesis likely secondary to GI
   bleed.  Hct drop likely dilutional and has remained stable.  This is
   concerning for mass/malignancy, given esophageal thickening, vs
   esophagitis vs gastritis vs mallorey [**Doctor Last Name **] tear (in the setting of ETOH
   use) vs PUD.  No evidence of portal hypertension to suggest varices.
   - Called out to floor
   - F/u on GI recs, will get endoscopy today
   - Liver bx to follow endoscopy
   - Maintain active T/S.
   - [**Hospital1 7**] HCT checks
   - Cont PPI [**Hospital1 7**].
   - Monitor hemodynamics
   - has 2 PIVs
   - Platelets to be transfused prior to endoscopy
   # Seizure.  Likely EtOH withdrawal vs theophylline toxicity.  No
   underlying seizure disorder.  No abnormalities on OSH head CT to
   explain.  No evidence of CNS infection.
   - Hold theophylline.
   - CIWA for now.
   # Tachycardia.  Improving. Ddx withdrawal, theophylline toxicity,
   hypovolemia (though now resuscitated with good UOP), bleeding (though
   hct stable).
   - IVF
   - Hold theophylline.
   - Cont to monitor
   # Electrolyte abnormalities: Hypokalemia, hypophosphatemia.  Likely
   poor nutrition in setting of EtOH abuse.  Both can also be exacerbated
   by theophylline.
   - Hold theophylline.
   - Replete aggressively IV for now.
   # Theophylline toxicity.  Elevated level to 25, unclear trigger (no
   known new meds to interact with).  Patient with seizure, tachycardia,
   hypokalemia and other metabolic abnls.
   - Hold theophylline.
   - Cont to monitor
   - will also check TSH
   # Emphysema.  Extensive disease on imaging.
   - PCP [**Name Initial (PRE) **].
   - Goal sats 90-92%.
   - Hold theophylline, nebs for now, consider tiotrop or [**Doctor Last Name **].
   # EtOH abuse.
   - SW consult.
   - Monitor on CIWA as above with oral valium.
   # Thrombocytopenia. Stable. Can be secondary to BM suppression from
   EtOH vs consumption from bleeding.  No evidence of splenomegaly on
   imaging.
   - continue to trend.
   # Thickened esophagus.  Concern for ?neoplastic pathology with liver
   lesions and evidence of bleeding.
   - GI to scope see above
   # Liver lesions.  Could be mets per radiology.
   - EGD as above
   - Will need further w/u, likely liver biopsy
   # Elevated CK.  ?related to seizure or found down.  Electrolyte abnls
   can also cause elevations/rhabdo.
   - Continue to trend
   ICU Care
   Nutrition: NPO for now
   Glycemic Control: monitor
   Lines:
   18 Gauge - [**2139-3-3**] 08:00 PM
   20 Gauge - [**2139-3-3**] 08:00 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer: PPI IV
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Called out to floor